US07749992B2
Step 2. Preparation of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropylamide
Add isopropyl amine (0.3 mmol) to a dichloromethane solution of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl chloride (0.050 g, 0.11 mmol) at room temperature under nitrogen. After stirring for 1 h remove solvent under vacuum and chromatograph the crude product over silica gel using ethyl acetate/hexane (30-40%) to elute. This provides the title compound (0.052 g, 87%) as a colorless solid: MS (ES+): 550 (M+H).

reactant | isopropyl amine | 0.3 mmol | C(C)(C)N | C3H9N
reactant | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl chloride | 0.11 mmol, 0.050 g | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)Cl)C=C(C=C2)Cl)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C22H18Cl2F6N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropylamide | 0.052 g, 87% | C(C)(C)NC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)Cl | C25H26ClF6N3O2
